US08735435B2
(4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3,4′-difluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one
To a solution of (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-chloro-6-fluorobenzyl)-4-methyl-1,3-oxazolidin-2-one (327 mg, 0.72 mmol) in 1,4-dioxane (4 mL) was added (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid (228 mg, 1.08 mmol), Palladium(II) acetate (33 mg, 20 mol %), potassium hydroxide (588 μL, 3M, 2.5 eq.) and tri-tert-butylphosphine (44 mg, 0.22 mmol, 30 mol % as a 10% w/w hexane solution). The resulting reaction mixture was purged with nitrogen and sealed in a microwave vessel. The vessel was subject to microwave irradiation at 135° C. for 50 min. LC-MS indicated the starting material/product ratio was about 55:45. The reaction mixture was re-submitted to reaction conditions (μw at 135° C. for 50 min). The LC-MS trace indicated that no progress was made from the 2nd irradiation. More palladium(II) acetate (33 mg, 20 mol %) and tri-tert-butylphosphine (44 mg, 0.22 mmol, 30 mol % as a 10% w/w hexane solution) were added into reaction mixture. The mixture was resubmitted to reaction conditions (μw at 135° C., 1 hr). Again, the LC-MS indicated no significant progress. The reaction mixture was quenched with H2O. The volatiles were removed under reduced pressure. The resulting mixture was extracted with EtOAc. The combined extracts were dried over Na2SO4, filtered and concentrated in vacuo to a yellow oil. The oil was dissolved in DMSO and purified twice by a reversed phase prep-HPLC (column: Kromasil, 100-5C18, 100×21.1 mm) eluted by 10% to 90% H2O (0.1% TFA, v/v)/MeCN (0.1% TFA, v/v). The resulting glassy material was then purified on a prep-TLC plate by 100% dichloromethane to afford the titled compound. LC-MS: 588.21 (M+1)+. 1H NMR (CDCl3, 500 MHz) δ 1:1 mixture of rotamers δ 7.83 (s, 1 H), 7.67 (s, 1 H) 7.65 (s, 1 H), 7.32-7.41 (m, 1H), 7.09-7.16 (m, 1H), 6.96-7.06 (m, 1H), 6.64-6.70 (m, 1H), 5.47 (d, J=8.0 Hz, 0.5 H), 5.19 (d, J=7.8 Hz, 0.5 H), 4.96 (d, J=14.9 Hz, 0.5 H), 4.80 (d, J=15.1 Hz, 0.5 H), 4.31 (d, J=15.1 Hz, 0.5 H), 3.91 (d, J=15.1 Hz, 0.5 H), 3.78 (s, 1.5 H), 3.75 (s, 1.5 H), 3.62-3.69 (m, 1 H), 3.15-3.26 (m, 1 H), 1.14-1.25 (m, 6 H), 0.54 (d, J=6.6 Hz, 1.5 H), 0.33 (d, J=6.4 Hz, 1.5 H).

reactant | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-(2-chloro-6-fluorobenzyl)-4-methyl-1,3-oxazolidin-2-one | 0.72 mmol, 327 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC=C1F)Cl)C)(F)F | C19H13ClF7NO2
reactant | (4-fluoro-5-isopropyl-2-methoxyphenyl)boronic acid | 1.08 mmol, 228 mg | FC1=CC(=C(C=C1C(C)C)B(O)O)OC | C10H14BFO3
reactant | potassium hydroxide | 3M, 588 μL, 2.5 eq. | [OH-].[K+]
reactant | tri-tert-butylphosphine | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
solvent | 1,4-dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium(II) acetate | 33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | palladium(II) acetate | 33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | hexane | CCCCCC | C6H14
product | (4S,5R)-5-[3,5-bis(trifluoromethyl)phenyl]-3-[(3,4′-difluoro-5′-isopropyl-2′-methoxybiphenyl-2-yl)methyl]-4-methyl-1,3-oxazolidin-2-one | FC(C=1C=C(C=C(C1)C(F)(F)F)[C@@H]1[C@@H](N(C(O1)=O)CC1=C(C=CC=C1F)C1=C(C=C(C(=C1)C(C)C)F)OC)C)(F)F | C29H25F8NO3
